2168-03-19 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Had MRI, showed putamenal stroke evolving, neuro consulted
   Had TEE negative for vegetations
   Started on ambisome per ID
   Plan on LP this a.m.
   Started on methylene blue for ifosphamide toxicity
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-3-18**] 02:52 PM
   Bactrim (SMX/TMP) - [**2168-3-18**] 04:00 PM
   Ambisome - [**2168-3-18**] 11:12 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-3-18**] 04:45 PM
   Midazolam (Versed) - [**2168-3-18**] 04:45 PM
   Pantoprazole (Protonix) - [**2168-3-18**] 06:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-19**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.9
C (96.6
   HR: 80 (76 - 115) bpm
   BP: 110/78(86) {60/30(38) - 141/100(110)} mmHg
   RR: 15 (10 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (5 - 10)mmHg
   Total In:
                                                                  4,805 mL
                                                                  1,377 mL
   PO:
   TF:
   IVF:
                                                                  4,805 mL
                                                                  1,377 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    290 mL
   Urine:
                                                                    815 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,990 mL
                                                                  1,087 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 631 (519 - 870) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.33/31/155/16/-8
   Ve: 8.5 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Gen: Sedated on vent, responds to stimuli but does not follow commands
   HEENT: No icterus, Pupils equal and reactive to light
   Heart: RRR, II/VI systolic murmur
   Lungs: CTAB
   Abd: Soft, NT, ND, BS+
   Ext: Trace pitting edema
   Labs / Radiology
   108 K/uL
   9.4 g/dL
   119 mg/dL
   1.9 mg/dL
   16 mEq/L
   4.2 mEq/L
   33 mg/dL
   113 mEq/L
   140 mEq/L
   26.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2168-3-18**]  01:57 PM
                             [**2168-3-18**]  02:06 PM
                             [**2168-3-18**]  08:06 PM
   WBC
   8.8
   Hct
   26.2
   Plt
   108
   Cr
   1.9
   TCO2
   18
   17
   Glucose
   119
   Other labs: PT / PTT / INR:14.3//1.2, ALT / AST:30/28, Alk Phos / T
   Bili:107/0.2, Differential-Neuts:96.6 %, Lymph:1.1 %, Mono:2.1 %,
   Eos:0.1 %, Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:399 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   70 yo male with NHL and long complicated course presents with altered
   mental status, evolving stroke and fungemia.
   #. Altered mental status: Possibly represents stroke in putamen, but no
   focal signs on exam yesterday. Could be generalized sepsis or chemo
   effect.
   - f/u final read MRI head
   - LP
   - keep sedation light
   - Ambisome
   - Neuro consult re: could stroke be cause and management of stroke
   .
   #. Mechanical ventilation: No acute pulmonary pathology, intubated for
   airway protection given mental status.
   - Extubate when mental status clearing after procedures (LP left to do)
   .
   #. Fungemia: TEE negative, consider other intravascular sources like
   PICC or clot.  CrAg negative. Final speciation pending but likely not
   albicans.
   - f/u punch biopsy by derm for possible emboli
   - f/u final culture
   - Surveillance blood cultures
   - Ambisome
   - histoplasma antigens
   .
   #?hypotension: doubt real as is so intermittent and no changes on
   telemetry
   - check manual BP when cuff [**Location (un) 118**] low
   - [**Last Name (un) **] stim
   - minimize sedation
   .
   #. CKD: Baseline renal function Cr 1.5-1.6, currently 1.8. U/A does not
   appear to be septic emboli. Possibly prerenal.
   - IVF boluses to keep UOP >50cc/hr
   .
   #. Hyperglycemia: Checking sugars, on dexamethasone
   - ISS
   .
   #. PPx: PPI, Bowel reg, pneumoboots given thrombocytopenia, Bactrim for
   PCP, [**Name10 (NameIs) **] for previous neutrapenia.
   .
   .
   #. FEN - Consider nutrition consult in am and TFs
   .
   #. Access - PIV and L IJ TLC
   .
   #. Code - Full. Wife is HCP, daughter is secondary HCP - per daughter,
   would want intubation
   .
   #. Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-3-18**] 02:43 PM
   18 Gauge - [**2168-3-18**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2168-03-19 10:41:00 Physician Attending Progress Note
Chief Complaint: AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo m dx'd in [**2167-12-10**] with paraspinal mass/NHL
   Since then in hospital for multiple rounds of [**Year (4 digits) 2051**]/intrathecal ara C
   PE s/p IVC filter
   acute cholecystitis
   PCP (presumptive)
   2 days ago, developed fever- pan-cultures
   That night, bd cultures started growing out yeast and PICC pulled.
   Found by team yesterday to be confused with garbled speech. To [**Hospital Unit Name 4**] and
   electively intubated. Has intermittently dropped BP's but fluid
   responsive.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2168-3-18**] 01:30 PM
 EKG - At [**2168-3-18**] 02:30 PM
 MULTI LUMEN - START [**2168-3-18**] 02:43 PM
 TRANS ESOPHAGEAL ECHO - At [**2168-3-18**] 04:50 PM
 URINE CULTURE - At [**2168-3-18**] 05:49 PM
 INVASIVE VENTILATION - START [**2168-3-18**] 09:30 PM
 MAGNETIC RESONANCE IMAGING - At [**2168-3-18**] 09:32 PM
   head imaging
   Ophth, ID, derm consults
   Started on ambisome
   TEE negative for endocarditis
   MRI: evolving left BG infarct; subtle intensity in parietal region
   Concern for iphosphamide toxicity- methylene blue started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-3-18**] 02:52 PM
   Bactrim (SMX/TMP) - [**2168-3-18**] 04:00 PM
   Ambisome - [**2168-3-18**] 11:12 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2168-3-18**] 04:45 PM
   Midazolam (Versed) - [**2168-3-18**] 04:45 PM
   Pantoprazole (Protonix) - [**2168-3-18**] 06:32 PM
   Other medications: DV NS 150cc/h, artificial tears, MVI, amlodipine
   (held), allopurinol, thiamine, dexamethasone, levothyroxine,
   chlorhexidine,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-19**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 86 (74 - 115) bpm
   BP: 86/64(69) {60/30(38) - 141/100(110)} mmHg
   RR: 14 (10 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (5 - 10)mmHg
   Total In:
                                                                  4,805 mL
                                                                  2,391 mL
   PO:
   TF:
   IVF:
                                                                  4,805 mL
                                                                  2,391 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    450 mL
   Urine:
                                                                    815 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,990 mL
                                                                  1,944 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 868 (519 - 870) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.33/31/155/15/-8
   Ve: 8.9 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: 1+ DP pulses
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, Rash: papules on arms-biopsied by derm, No(t)
   Jaundice; no [**Last Name (un) **] lesions
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, intermittently responds to
   voice
   Labs / Radiology
   6.7 g/dL
   64 K/uL
   84 mg/dL
   1.9 mg/dL (unchanged)
   15 mEq/L
   3.1 mEq/L
   34 mg/dL
   118 mEq/L
   141 mEq/L
   20.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2168-3-18**]  01:57 PM
                             [**2168-3-18**]  02:06 PM
                             [**2168-3-18**]  08:06 PM
                             [**2168-3-19**]  05:30 AM
   WBC
   8.8
   10.8
   Hct
   26.2
   20.3
   Plt
   108
   64
   Cr
   1.9
   1.9
   TCO2
   18
   17
   Glucose
   119
   84
   Other labs: PT / PTT / INR:14.7//1.3, ALT / AST:22/29, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:94.0 %, Band:5.0 %, Lymph:1.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL,
   LDH:399 IU/L, Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR without edema/infiltrates
   Microbiology: Blood cultures: [**2168-3-15**] Yeast (not [**Female First Name (un) **] albicans)
   Serum crypto Ag negative
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FUNGAL INFECTION, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Problem [**Name (NI) 670**]:
   Altered mental status
   Acute respiratory failure
   Anemia
   Fungal sepsis
   70 yo male hospitalized x 3 months for NHL undergoing [**Name (NI) **], course
   complicated by PE, PCP, [**Name10 (NameIs) 5705**] now with AMS
   1.       AMS- Intermittently follows commands. Does have new onset
   fungal sepsis which could be explaining his altered mental status, also
   with evidence of new infarct on MRI. Given +Fungemia and MRI changes
   need to be concerned abt CNS invovlement- plan LP. On methylene blue
   for possible component of iphos toxicity. Wean sedation as tolerated to
   assess mental status
   2.       Acute respiratory failure: intubated on vent for airway
   protection/ Oxygenation and ventilation adequate
   3.       Hypotension: Intermittently hypotensive, though not requiring
   pressors. Resuscitate as needed, consider a-line if this becomes
   persistent
   4.       Fungal sepsis: species not yet identiifed. With [**Doctor Last Name **] spots by
   derm exam and stroke on MRI, concern for embolit - no cardiac source
   seen by Echo, but did have PICC which has been pulled. On ambisone.
   Remains on cipro/bactrim for prophylaxis
   5.       ARF: unchanged renal function, continue to renally dose meds
   6.       NHL: per BMT team . Recently completed [**Last Name (LF) 2051**], [**First Name3 (LF) **] counts are
   expected to nadir in the middle of next week. Has remained
   transfusion-dependent and will continue to suppport.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-3-18**] 02:43 PM left IJ
   18 Gauge - [**2168-3-18**] 07:00 PM
   Prophylaxis:
   DVT: boots +filter
   Stress ulcer: PPI
   VAP: VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-03-20 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  AMS and Fungemia
   24 Hour Events:
   LP done
   BPs stable
   MRI done
   Neuro recommends that patient's infart on MRI likely does not
   correllate to his state
   Derm recommends no biopsy of lesions as patient on systemic antifungals
   Cortisol Stimulating test - responded appropriately
   Post Transfusion HCT was 26.4
   BMT recommends continuing Dexamethasone
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-3-19**] 02:31 PM
   Bactrim (SMX/TMP) - [**2168-3-19**] 05:00 PM
   Ambisome - [**2168-3-19**] 10:08 PM
   Infusions:
   Fentanyl - 15 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-3-20**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-20**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 76 (75 - 89) bpm
   BP: 115/84(91) {86/64(69) - 138/96(105)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 292 (3 - 292)mmHg
   Total In:
                                                                  5,904 mL
                                                                    241 mL
   PO:
   TF:
   IVF:
                                                                  5,277 mL
                                                                    241 mL
   Blood products:
                                                                    627 mL
   Total out:
                                                                  1,190 mL
                                                                    310 mL
   Urine:
                                                                  1,190 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,714 mL
                                                                    -69 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 610 (548 - 853) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///14/
   Ve: 8.3 L/min
   Physical Examination
   Gen: Sedated on vent, responds to stimuli but does not follow commands
   HEENT: No icterus, Pupils equal and reactive to light
   Heart: RRR, II/VI systolic murmur
   Lungs: CTAB
   Abd: Soft, NT, ND, BS+
   Ext: Trace pitting edema
   Labs / Radiology
   57 K/uL
   9.4 g/dL
   76 mg/dL
   1.9 mg/dL
   14 mEq/L
   3.5 mEq/L
   36 mg/dL
   115 mEq/L
   137 mEq/L
   26.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2168-3-18**]  01:57 PM
                             [**2168-3-18**]  02:06 PM
                             [**2168-3-18**]  08:06 PM
                             [**2168-3-19**]  05:30 AM
                             [**2168-3-19**]  07:17 PM
                             [**2168-3-20**]  03:23 AM
   WBC
   8.8
   10.8
   9.8
   Hct
   26.2
   20.3
   26.4
   26.8
   Plt
   108
   64
   57
   Cr
   1.9
   1.9
   1.9
   1.9
   TCO2
   18
   17
   Glucose
   119
   84
   119
   76
   Other labs: PT / PTT / INR:14.7//1.3, ALT / AST:22/29, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:94.0 %, Band:5.0 %, Lymph:1.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL,
   LDH:399 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.7 mg/dL
   MRI Head
   IMPRESSION:
   1. Previously noted left basal ganglia putaminal abnormality appears to
   be due to an evolving subacute lacunar infarct.
   2. New subtle hyperintensity in the right parietal subcortical region
   without enhancement most likely represents a subacute infarct. Mild
   changes of small vessel disease and brain atrophy seen.
   3. No evidence of meningeal or parenchymal enhancement suggestive of
   metastatic disease or brain abscess identified.
   Assessment and Plan
   70 yo male with NHL and long complicated course presents with altered
   mental status, evolving stroke and fungemia.
   #. Altered mental status:  Resolved.  Patient is responding to commands
   and sedation has been weaned to Fentanyl 15mcgs.  Neurology suggested
   that patient
s infarcts on MRI likely do not correlate to patient
   clinical status.  LP was unremarkable
 gram stain negative, protein
   and glucose negative.  Patient was originally intubated because of his
   mental status, favor extubation today.
   -          Extubate today, wean sedation
   -          Full neuro exam once patient awake
   .
   #. Mechanical ventilation: No acute pulmonary pathology, intubated for
   airway protection given mental status.
   - Extubate today
   .
   #. Fungemia:  No clear speciation, likely [**Female First Name (un) **], but not albacans.
   No clear source as TEE negative, consider other intravascular sources.
    Given that patient has cortical infarcts, renal insufficiency there is
   a possibility that patient could be passing septic emboli.  Patient
   clinically has improved, no source yet.  Has been on ambisome to cover
   for CNS penetration, but in light of negative LP, may favor switching
   anti-fungals in light of toxicities.
   - f/u final culture
   - Contact ID regarding Abx choice
   - Coninue Ambisome
   .
   #?hypotension: Resolved.   [**Last Name (un) 567**] stim was WNL.
   - Monitor.
   .
   #. CKD: Baseline renal function Cr 1.5-1.6, currently 1.8. U/A does not
   appear to be septic emboli. Possibly prerenal.
   - Monitor
   .
   #. Hyperglycemia: Checking sugars, on dexamethasone
   - ISS
   .
   #. PPx: PPI, Bowel reg, pneumoboots given thrombocytopenia, Bactrim for
   PCP, [**Name10 (NameIs) **] for previous neutrapenia.
   .
   #. FEN
 NPO for now, until patient
s MS improves.
   .
   #. Access - PIV and L IJ TLC
   .
   #. Code - Full. Wife is HCP, daughter is secondary HCP - per daughter,
   would want intubation
   .
   #. Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-3-18**] 02:43 PM
   22 Gauge - [**2168-3-19**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2168-03-20 09:13:00 Physician Attending Progress Note
Chief Complaint: AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo male with newly dx'd NHL hospitalized since 1/[**2167**]. Complicated
   hosp course notable for multiple chemo's, ?PCP [**Name Initial (PRE) 967**] (treated), PE s/p
   IVC filter, gangrenous cholecystitis with Pseudomonas bacteremia, porta
   cath hematoma s/p evacuation
   Transferred [**3-18**]  for AMS and intubated for airway
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2168-3-19**] 03:19 PM: OP 17
   *Neuro consult who felt MRI changes did not explain his AMS
   *Negative [**Last Name (un) **] stim test
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-3-19**] 02:31 PM
   Bactrim (SMX/TMP) - [**2168-3-19**] 05:00 PM
   Ambisome - [**2168-3-19**] 10:08 PM
   Infusions:
   Fentanyl - 15 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-3-20**] 08:20 AM
   Other medications:
   metoprolol, amlodipine, alloopurinol, thiamine, dexamethsone 3 mg q 12,
   colace, levothryoxine, PPI, 1% methylene blue
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-20**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.5
C (95.9
   HR: 87 (75 - 89) bpm
   BP: 122/86(95) {86/64(69) - 138/96(105)} mmHg
   RR: 17 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 292 (3 - 292)mmHg
   Total In:
                                                                  5,904 mL
                                                                    385 mL
   PO:
   TF:
   IVF:
                                                                  5,277 mL
                                                                    385 mL
   Blood products:
                                                                    627 mL
   Total out:
                                                                  1,190 mL
                                                                    410 mL
   Urine:
                                                                  1,190 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,714 mL
                                                                    -23 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 194 (194 - 853) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///14/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, NG tube, OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbin, trace edema
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   57 K/uL
   76 mg/dL
   1.9 mg/dL (unchanged)
   14 mEq/L
   3.5 mEq/L
   36 mg/dL
   115 mEq/L
   137 mEq/L
   26.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2168-3-18**]  01:57 PM
                             [**2168-3-18**]  02:06 PM
                             [**2168-3-18**]  08:06 PM
                             [**2168-3-19**]  05:30 AM
                             [**2168-3-19**]  07:17 PM
                             [**2168-3-20**]  03:23 AM
   WBC
   8.8
   10.8
   9.8
   Hct
   26.2
   20.3
   26.4
   26.8
   Plt
   108
   64
   57
   Cr
   1.9
   1.9
   1.9
   1.9
   TCO2
   18
   17
   Glucose
   119
   84
   119
   76
   Other labs: PT / PTT / INR:14.7//1.3, ALT / AST:22/29, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:94.0 %, Band:5.0 %, Lymph:1.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL,
   LDH:399 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.7 mg/dL
   Fluid analysis / Other labs: CSF: prot 57, glucose 69, 0 Wbc's, 8 RBC
   CSF cryptococcal Ag neg
   Imaging: MRI; left basal ganglia evolving infarct (subacute), new
   parietal hyperintensity
   Microbiology: FUngal species still pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 HYPOTENSION (NOT SHOCK)
 FUNGAL INFECTION, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   70 yo male with NHL and prolonged hospital course presenting with
   sudden AMS requiring intubation for airway protection.
   1.       AMS: improved. Postulated etiologies have included fungal
   sepsis, ifos toxicity. MRI shows a couple areas of new infarct, but it
   was felt by Neurology that these by themselves would not have explained
   his abrupt decline
   *f/u LP results
   *Will discuss length of methylene blue therapy with BMT team
   *Pt on minimal fentanyl, continue to wean and will re-evaluate once pt
   off completely
   2.       Acute respiratory failure: with pt
s improved mental status
   this morning and minimal vent requirements will attempt SBT and
   extubation today
   3.       Fungemia: On amphisone
   *F/u fungal speciation
   4. NHL: per BMT team. On cipro/bactrim for prophylaxis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-3-18**] 02:43 PM
   22 Gauge - [**2168-3-19**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2168-03-21 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -successful extubation
   -BMT rec continue neupogen and meth blue
   -continue ambisone
   -derm did not come to see pt
   -no new growth on CSF or Bcx
   -d/c hep sc given plts trending down
   -creatinine trending up 1.9 -> 2.1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-3-20**] 03:29 PM
   Bactrim (SMX/TMP) - [**2168-3-20**] 04:27 PM
   Ambisome - [**2168-3-20**] 10:11 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-3-20**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-21**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 86 (75 - 96) bpm
   BP: 98/69(76) {91/67(73) - 139/101(108)} mmHg
   RR: 17 (13 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 3 (2 - 9)mmHg
   Total In:
                                                                  1,872 mL
                                                                    228 mL
   PO:
   TF:
   IVF:
                                                                  1,872 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    245 mL
   Urine:
                                                                  1,475 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    397 mL
                                                                    -17 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 194 (194 - 194) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 96%
   ABG: ///12/
   Ve: 9.3 L/min
   Physical Examination
   Gen: Extremely lethargic, responds to stimuli, follows very simple
   commands. Will occasionally answer questions, maintains eyes closed.
   Moves fingers and toes in response to voice.
   HEENT: No icterus, JVD to 4cm above clavicle
   Heart: RRR, II/VI systolic murmur
   Lungs: CTAB
   Abd: Soft, NT, ND, BS+
   Ext: 2+ pitting edema of LE
s bilaterally
   Neuro: Moves 4 extremities to command, Pupils reactive to light L
   slightly larger than R.
   Labs / Radiology
   38 K/uL
   8.6 g/dL
   78 mg/dL
   2.1 mg/dL
   12 mEq/L
   3.9 mEq/L
   36 mg/dL
   118 mEq/L
   138 mEq/L
   25.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2168-3-18**]  01:57 PM
                             [**2168-3-18**]  02:06 PM
                             [**2168-3-18**]  08:06 PM
                             [**2168-3-19**]  05:30 AM
                             [**2168-3-19**]  07:17 PM
                             [**2168-3-20**]  03:23 AM
                             [**2168-3-20**]  04:00 PM
                             [**2168-3-21**]  02:46 AM
   WBC
   8.8
   10.8
   9.8
   7.7
   Hct
   26.2
   20.3
   26.4
   26.8
   25.6
   Plt
   108
   64
   57
   38
   Cr
   1.9
   1.9
   1.9
   1.9
   2.1
   2.1
   TCO2
   18
   17
   Glucose
   119
   84
   119
   76
   92
   78
   Other labs: PT / PTT / INR:14.7//1.3, ALT / AST:22/29, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:98.0 %, Band:1.0 %, Lymph:1.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL,
   LDH:399 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   70 yo male with NHL and long complicated course presents with altered
   mental status, subacute stroke and fungemia.
   #. Altered mental status:  Stable to slightly improved.  Patient is
   responding to commands and sedation has been stopped.  Neurology
   suggested that patient
s infarcts on MRI likely do not correlate to
   patient
s clinical status.  LP no growth.  Patient was originally
   intubated because of his mental status, tolerating extubation well,
   appears to be protecting airway.  Most likely diagnoses are toxic
   metabolic from infection and ifosfamide toxicity.
           -  f/u heme/onc recs on when to d/c methylene blue and how
   quickly his AMS should resolve w/ treatment for ifosphamide toxicity.
          - continue ambisome for now
   -          Continue off sedation
   -          con
   -          Full neuro exam once patient awake
   .
   #. Mechanical ventilation: No acute pulmonary pathology, intubated for
   airway protection given mental status.
   - Extubate today
   .
   #. Fungemia:  [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 5744**] No clear source as TEE negative,
   consider other intravascular sources.  Given that patient has cortical
   infarcts, per ID will continue w/ 2 weeks of ambisome and aggressively
   hydrate w/ 500cc D5W w/ 150meq of bicarb pre and post ambisome to avoid
   renal toxicity.  Given that some C. [**Last Name (NamePattern1) 5744**] can be resistant to
   micafungin in hematologic malignancy pt.s may need to be on long course
   of ambisome.
   - f/u final sensitivities
   - Contact ID regarding Abx choice
   - Coninue Ambisome x 2 weeks at least
   .
   #?hypotension: Intermittent.   [**Last Name (un) 567**] stim was WNL.
   - Monitor.
   .
   #. CKD: Baseline renal function Cr 1.5-1.6, currently 1.8. U/A does not
   appear to be septic emboli. Possibly prerenal.
   - Monitor
   .
   #. Hyperglycemia: Checking sugars, on dexamethasone
   - ISS
   .
   #. PPx: PPI, Bowel reg, pneumoboots given thrombocytopenia, Bactrim for
   PCP, [**Name10 (NameIs) **] for previous neutrapenia.
   .
   #. FEN
 NPO for now, until patient
s MS improves.
   .
   #. Access - PIV and L IJ TLC
   .
   #. Code - Full. Wife is HCP, daughter is secondary HCP - per daughter,
   would want intubation
   .
   #. Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-3-18**] 02:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-03-21 18:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Extubated yesterday
   BMT recommended continue neupogen and methylene blue
   ID recommended continue ambisome
   CSF and Bcx had no new growth
   Platelets were trending down so stopped heparin
   Creatinine trended up to 2.1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2168-3-20**] 10:11 PM
   Ciprofloxacin - [**2168-3-21**] 01:45 PM
   Bactrim (SMX/TMP) - [**2168-3-21**] 04:27 PM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2168-3-21**] 05:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-21**] 06:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.4
C (95.8
   HR: 80 (75 - 92) bpm
   BP: 119/80(88) {81/58(64) - 130/89(98)} mmHg
   RR: 18 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (2 - 7)mmHg
   Total In:
                                                                  1,873 mL
                                                                  1,971 mL
   PO:
   TF:
   IVF:
                                                                  1,873 mL
                                                                  1,971 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                  1,090 mL
   Urine:
                                                                  1,475 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    398 mL
                                                                    881 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///12/
   Physical Examination
   Gen: Lethargic, following simple commands but not able to answer
   questions consistently
   HEENT: No icterus, eyes closed
   Heart: RRR, distatnt heart sounds
   Lungs: CTAB anteriorly
   Abd: Soft, NT, ND, BS+
   Ext: 2+ pitting edema of feet bilaterally, 1+ DP pulses
   Neuro: Not able to elicit DTRs in knee or ankle bilaterally. No clonus
   Labs / Radiology
   38 K/uL
   8.6 g/dL
   78 mg/dL
   2.1 mg/dL
   12 mEq/L
   3.9 mEq/L
   36 mg/dL
   118 mEq/L
   138 mEq/L
   25.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2168-3-18**]  01:57 PM
                             [**2168-3-18**]  02:06 PM
                             [**2168-3-18**]  08:06 PM
                             [**2168-3-19**]  05:30 AM
                             [**2168-3-19**]  07:17 PM
                             [**2168-3-20**]  03:23 AM
                             [**2168-3-20**]  04:00 PM
                             [**2168-3-21**]  02:46 AM
   WBC
   8.8
   10.8
   9.8
   7.7
   Hct
   26.2
   20.3
   26.4
   26.8
   25.6
   Plt
   108
   64
   57
   38
   Cr
   1.9
   1.9
   1.9
   1.9
   2.1
   2.1
   TCO2
   18
   17
   Glucose
   119
   84
   119
   76
   92
   78
   Other labs: PT / PTT / INR:15.6/35.5/1.4, ALT / AST:22/29, Alk Phos / T
   Bili:86/0.2, Differential-Neuts:98.0 %, Band:1.0 %, Lymph:1.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:382 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.1 g/dL, LDH:399 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   70 yo male with NHL and long complicated course presents with altered
   mental status and fungemia s/p chemo.
   #. Altered mental status:  Stable to slightly improved.  Patient is
   responding to commands and sedation has been.  Per neurology it is
   unlikely that his MRI finding of stroke is causing his altered mental
   status.  LP was essentially negative, no WBCs, but some cultures still
   pending.  Has been protecting airway well.   Differential diagnosis
   includes toxic/metabolic from infection but also could be ifosphamide
   or ara-c so may take weeks for this to resolve.
          -     Per heme/onc will continue methylene blue for now though
   should have worked by now
   -          D/c sedation
   -          Full neuro exam once patient awake and cooperative
   -          Continue treatment of candidemia
   -          Continue steroids for intrathecal ara-c toxicity
   .
   #. Candidemia: [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 5744**]. Likely intravascular source other
   than heart, suspect infected clot. Given increased Cr likely [**1-11**]
   ambisome will switch back to micafungin as no e/o CNS infection
   - f/u final culture/ sensitivities
   - discontinue ambisome
   - restart micafungin but at 150mg/day
   .
   #?hypotension: intermittent, likely inaccurate readings on automated
   cuff as no change in HR or rhythm during these episodes and they
   resolve spontaneously. Could possibly be related to level of arousal.
   [**Last Name (un) 567**] stim was WNL.
   - Limit NS boluses given hyperchloremic metabolic acidosis
   .
   #. Acute on chronic CKD: Likely [**1-11**] ambisome vs. chemo effect.
   - Ulytes/anion gap
   - d/c ambisome
   .
   #. Hyperglycemia: Checking sugars, on dexamethasone
   - ISS
   .
   #. PPx: PPI, Bowel reg, pneumoboots given thrombocytopenia, Bactrim for
   PCP, [**Name10 (NameIs) **] for previous neutrapenia.
   .
   #. FEN
 NPO for now, until patient
s MS improves.  If no improvement
   soon will consider TF but will likely be neutrapenic and NGT would
   increase risk of infection.
   .
   #. Access - PIV and L IJ TLC
   .
   #. Code - Full. Wife is HCP, daughter is secondary HCP - per daughter,
   would want intubation
   .
   #. Dispo
 BMT floor pending nursing comfort w/ his return
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-3-18**] 02:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-03-22 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   BMT recommended keeping methylene blue until [**3-22**]
   ID recommeded switch from ambisome to micafungin given renal
   insufficiency, treat for 4 weeks
   Neuro recommeded MRA
   Neuro onc to see ([**First Name8 (NamePattern2) 164**] [**Last Name (NamePattern1) 2506**])
   Urine anion gap was +21 (C/W RTA)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2168-3-20**] 10:11 PM
   Ciprofloxacin - [**2168-3-21**] 01:45 PM
   Bactrim (SMX/TMP) - [**2168-3-21**] 04:27 PM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2168-3-21**] 05:49 PM
   Pantoprazole (Protonix) - [**2168-3-21**] 07:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-22**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.3
C (95.6
   HR: 102 (77 - 104) bpm
   BP: 93/67(72) {75/53(57) - 130/89(98)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  2,241 mL
                                                                    936 mL
   PO:
   TF:
   IVF:
                                                                  2,241 mL
                                                                    936 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    305 mL
   Urine:
                                                                  1,430 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    811 mL
                                                                    631 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///15/
   Physical Examination
   Gen: Lethargic, following simple commands but not able to answer
   questions consistently
   HEENT: No icterus, eyes closed
   Heart: RRR, distatnt heart sounds
   Lungs: CTAB anteriorly
   Abd: Soft, NT, ND, BS+
   Ext: 2+ pitting edema of feet bilaterally, 1+ DP pulses
   Neuro: Not able to elicit DTRs in knee or ankle bilaterally. No clonus
   Labs / Radiology
   24 K/uL
   6.6 g/dL
   71 mg/dL
   2.4 mg/dL
   15 mEq/L
   3.0 mEq/L
   41 mg/dL
   120 mEq/L
   140 mEq/L
   19.3 %
   0.4 K/uL
        [image002.jpg]
                             [**2168-3-18**]  01:57 PM
                             [**2168-3-18**]  02:06 PM
                             [**2168-3-18**]  08:06 PM
                             [**2168-3-19**]  05:30 AM
                             [**2168-3-19**]  07:17 PM
                             [**2168-3-20**]  03:23 AM
                             [**2168-3-20**]  04:00 PM
                             [**2168-3-21**]  02:46 AM
                             [**2168-3-22**]  04:33 AM
                             [**2168-3-22**]  06:07 AM
   WBC
   8.8
   10.8
   9.8
   7.7
   0.6
   0.4
   Hct
   26.2
   20.3
   26.4
   26.8
   25.6
   20.2
   19.3
   Plt
   108
   64
   57
   38
   23
   24
   Cr
   1.9
   1.9
   1.9
   1.9
   2.1
   2.1
   2.4
   TCO2
   18
   17
   Glucose
   119
   84
   119
   76
   92
   78
   71
   Other labs: Differential
 Pending; ANC
 pending  Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   70 yo male with NHL and long complicated course presents with altered
   mental status and fungemia s/p chemo.
   #. Altered mental status:  Stable to slightly improved.  Patient is
   responding to commands and sedation has been.  Per neurology it is
   unlikely that his MRI finding of stroke is causing his altered mental
   status.  LP was essentially negative, no WBCs, but some cultures still
   pending.  Has been protecting airway well.   Differential diagnosis
   includes toxic/metabolic from infection but also could be ifosphamide
   or ara-c so may take weeks for this to resolve.
          -     Per heme/onc will continue methylene blue for now though
   should have worked by now
   -          D/c sedation
   -          Full neuro exam once patient awake and cooperative
   -          Continue treatment of candidemia
   -          Continue steroids for intrathecal ara-c toxicity
   .
   #. Candidemia: [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 5744**]. Likely intravascular source other
   than heart, suspect infected clot. Given increased Cr likely [**1-11**]
   ambisome will switch back to micafungin as no e/o CNS infection
   - f/u final culture/ sensitivities
   - discontinue ambisome
   - restart micafungin but at 150mg/day
   .
   #?hypotension: intermittent, likely inaccurate readings on automated
   cuff as no change in HR or rhythm during these episodes and they
   resolve spontaneously. Could possibly be related to level of arousal.
   [**Last Name (un) 567**] stim was WNL.
   - Limit NS boluses given hyperchloremic metabolic acidosis
   .
   #. Acute on chronic CKD: Likely [**1-11**] ambisome vs. chemo effect.
   - Ulytes/anion gap
   - d/c ambisome
   .
   #. Hyperglycemia: Checking sugars, on dexamethasone
   - ISS
   .
   #. PPx: PPI, Bowel reg, pneumoboots given thrombocytopenia, Bactrim for
   PCP, [**Name10 (NameIs) **] for previous neutrapenia.
   .
   #. FEN
 NPO for now, until patient
s MS improves.  If no improvement
   soon will consider TF but will likely be neutrapenic and NGT would
   increase risk of infection.
   .
   #. Access - PIV and L IJ TLC
   .
   #. Code - Full. Wife is HCP, daughter is secondary HCP - per daughter,
   would want intubation
   .
   #. Dispo
 BMT floor pending nursing comfort w/ his return
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-3-18**] 02:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-03-23 07:32:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yom HTN newly diagnosed non-Hodgkin's lymphoma from this admission
   beginning [**2167-12-19**] (LOS 90d) for left perinephric mass extending into
   the T11 to L1 epidural space, with complicated course including XRT to
   spine to prevent cord compression, resistant disease despite 3
   chemotherapy regimens (1 cycle of R-CHOPH, 1 cycle of [**Hospital1 988**], and
   currently on day #8, cycle 2 of ICE), complicated by febrile
   neutropenia, s/p tx for PCP, [**Name10 (NameIs) 5688**] cholecystitis preceded by
   pseudomonal and E.coli bacteremia, DVT and PE with hemorrhage on
   anticoagulation and IVC filter placement, and fungemia.
   24 Hour Events:
   Patient well-known to MICU service for evaluation of mental status
   changes [**Date range (1) 5763**], discharged to medical [**Hospital1 **] yesterday following
   clearing of sensorium (attributed to intrathecal chemotherapy).
   Paitent was doing well on the [**Hospital1 **], until early this AM when he passed
   a large amount of dark stool and clots in bed this AM.  No hemodynamic
   compromise or symptoms.  No bleeding elsewhere.  Now transferred back
   to MICU service for management of GI bleed.
   Upon arrival to MICU, somnulant, but easily awakened, and oriented to
   place and year.  Denies abdominal pain, N/V, dyspnea, chest pain,
   presyncope, palpitations.
                            History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ambisome - [**2168-3-20**] 10:11 PM
   Ciprofloxacin - [**2168-3-22**] 04:00 PM
   Bactrim (SMX/TMP) - [**2168-3-22**] 04:00 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss, Hypothermia
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis, condom
   catheter
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-3-23**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35
C (95
   HR: 68 (67 - 104) bpm
   BP: 97/73(79) {90/58(65) - 147/98(110)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (5 - 10)mmHg
   Total In:
                                                                  3,006 mL
                                                                  1,427 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                  2,156 mL
                                                                    136 mL
   Blood products:
                                                                    700 mL
                                                                  1,291 mL
   Total out:
                                                                  1,015 mL
                                                                    410 mL
   Urine:
                                                                  1,015 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,991 mL
                                                                  1,017 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///13/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   84 K/uL
   84 mg/dL
   2.4 mg/dL
   13 mEq/L
   3.1 mEq/L
   42 mg/dL
   119 mEq/L
   141 mEq/L
   22.2 %
   0.1 K/uL
        [image002.jpg]
                             [**2168-3-19**]  05:30 AM
                             [**2168-3-19**]  07:17 PM
                             [**2168-3-20**]  03:23 AM
                             [**2168-3-20**]  04:00 PM
                             [**2168-3-21**]  02:46 AM
                             [**2168-3-22**]  04:33 AM
                             [**2168-3-22**]  06:07 AM
                             [**2168-3-22**]  04:03 PM
                             [**2168-3-23**]  03:54 AM
                             [**2168-3-23**]  05:44 AM
   WBC
   10.8
   9.8
   7.7
   0.6
   0.4
   0.3
   0.2
   0.1
   Hct
   20.3
   26.4
   26.8
   25.6
   20.2
   19.3
   25.1
   23.8
   22.2
   Plt
   64
   57
   38
   23
   24
   15
   10
   84
   Cr
   1.9
   1.9
   1.9
   2.1
   2.1
   2.4
   2.4
   Glucose
   84
   119
   76
   92
   78
   71
   84
   Other labs: PT / PTT / INR:15.8/33.1/1.4, ALT / AST:20/29, Alk Phos / T
   Bili:69/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:10.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:265 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.1 g/dL, LDH:275 IU/L, Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   70 yom NHL receiving chemotherapy, complicated hospital course
   including (possible) Pneumocystis pneumonia, acute cholecystitis,
   fungemia, acute cholecystitis, and PE/DVT
 s/p IVC filter placement
   (experienced hemorrhage on anticoagulation) now presents with acute GI
   bleed.
   GI BLEED
 Painless GI bleed, large volume, without hemodynanic
   compromise
 suggest diverticular.  However, unable to exclude brisk
   UGI source, although would expect hemodynamic compromise.
   Thrombocytopenia likely contributing to bleeding diathesis.    Plan
   maintain iv, transfuse 4 units PRBCS, 6 pack of platelets, 1 FFP, GI
   consultation, General Surgery consultation.  Monitor serial Hct.  NPO.
   ANEMIA
 attributed to GI bleed on background of chemotherapy.  Monitir
   serial Hct.
   HYPOKALEMIA
 replete to >4.0
   ALTERED MENTAL STATUS
 attributed to intrathecal chemotherapy.
   Improving.  Monitor.
   FUNGEMIA -- [**Female First Name (un) **] albicans growing from cultures on [**2168-3-15**]
 continue
   micafungin.  Hold further chemotherapy.
   ACUTE RENAL FAILURE
 background of chronic kidney disease.  Acute
   elevation of creatitine likely due to hypovollemiia, medicatios
   (ambisome).  Possible RTA?  Monitior uo, BUN, creat.  Avoid
   nephrotoxins.
   NUTRITIONAL SUPPORT
 NPO pending GI evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-3-23**] 04:54 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2168-03-24 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  GI Bleed
   24 Hour Events:
   HCt stable
   Decided not to do tagged RBC scan given pt not bleeding briskly enough
   No endoscope for now
   Pt still full code
   NG lavage negative
   Confused overnight got haldol
   Goal is to go home full code
   Had some more sm bloody bm and melena
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-3-23**] 08:00 AM
   Bactrim (SMX/TMP) - [**2168-3-23**] 04:00 PM
   Micafungin - [**2168-3-23**] 10:15 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2168-3-24**] 01:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-24**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 87 (63 - 107) bpm
   BP: 120/89(97) {97/63(79) - 163/112(119)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,570 mL
                                                                    133 mL
   PO:
             TF:
   IVF:
                                                                  1,566 mL
                                                                    133 mL
   Blood products:
                                                                  2,004 mL
   Total out:
                                                                  2,135 mL
                                                                  1,055 mL
   Urine:
                                                                  2,135 mL
                                                                  1,055 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,435 mL
                                                                   -922 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///14/
   Physical Examination
   GENERAL - pale-appearing man in NAD, comfortable, appropriate
   HEENT - NC/AT, PERRLA, EOMI, conj palor, sclerae anicteric, MMM, OP
   clear
   NECK - supple, no thyromegaly, left IJ quad lumen in place
   LUNGS - CTA bilat, no r/rh/wh, good air movement, resp unlabored, no
   accessory muscle use
   HEART - PMI non-displaced, RRR, no MRG, nl S1-S2
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
   EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs)
   SKIN - no rashes or lesions
   NEURO - awake, A&O to place ([**Hospital1 **]) and time ([**2167**]), CNs II-XII grossly
   intact, muscle strength 5/5 throughout, sensation grossly intact
   throughout, gait deferred
   Labs / Radiology
   26 K/uL
   11.4 g/dL
   74 mg/dL
   2.4 mg/dL
   14 mEq/L
   3.7 mEq/L
   50 mg/dL
   120 mEq/L
   141 mEq/L
   31.8 %
   0.1 K/uL
        [image002.jpg]
                             [**2168-3-21**]  02:46 AM
                             [**2168-3-22**]  04:33 AM
                             [**2168-3-22**]  06:07 AM
                             [**2168-3-22**]  04:03 PM
                             [**2168-3-23**]  03:54 AM
                             [**2168-3-23**]  05:44 AM
                             [**2168-3-23**]  09:55 AM
                             [**2168-3-23**]  04:56 PM
                             [**2168-3-23**]  09:09 PM
                             [**2168-3-24**]  03:59 AM
   WBC
   7.7
   0.6
   0.4
   0.3
   0.2
   0.1
   0.1
   Hct
   25.6
   20.2
   19.3
   25.1
   23.8
   22.2
   27.6
   31.1
   31.2
   31.8
   Plt
   38
   23
   24
   15
   10
   84
   56
   40
   33
   26
   Cr
   2.1
   2.4
   2.4
   2.4
   2.4
   Glucose
   78
   71
   84
   84
   74
   Other labs: PT / PTT / INR:14.2/33.1/1.2, Differential-Neuts:33.0 %,
   Band:0.0 %, Lymph:67.0 %, Mono:0.0 %, Eos:0.0 %, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   70 yo M with NHL s/p 1 cycle of [**Hospital1 988**] and in cycle 2 day #8 of ICE with
   a complicated hospital course including PCP, [**Name10 (NameIs) 5760**], acute
   cholecystitis, PE/DVT s/p filter [**1-11**] hemorrhage on anticoagulation
   presents with large melanotic stool and blood clots.
   .
   # GI Bleed - Occurred in the setting of platelet count of 11. Not
   currently anticoagulated. No prior history of GI bleeding or pathology.
   No NSAIDS. Exam unremarkable and no pain, nausea, vomiting, raising
   suspicion for diverticular bleed. Question of etiology of acute hct
   drop on day prior to bloody bowel movement support possible Upper GI
   etiology with long transit time.
   - obtain 2 large bore PIVs, has quad lumen in place
   - transfuse 4 units PRBCS, 6 pack of platelets, 1 FFP
   - IV PPI bolus + gtt
   - Surgery and GI consulted
   - npo
   - follow HCT, coags, fibrinogen
   - discuss risks/benefits of EGD/colonoscopy in setting of neutrapenia
   .
   # [**Month/Day (2) **] - [**Female First Name (un) **] Albicans growing from cultures on [**2168-3-15**].
   Requiring interruption of cycle #2 of ICE.
   - continue micafungin
   .
   #. Altered mental status: s/p recent work up revealing encephalitis
   likely [**1-11**] chemo effects. Slowly returning to baseline MS. EEG c/w
   encephalopathy, MRI showing two small CVAs, LP negative.
   - continue to follow
   - appreciate neuro onc recs
   .
   #. Acute on CKD: Baseline renal function Cr 1.5-1.6, now 2.6.
   Differential includes ambisome, chemo toxicity, pre-renal state in
   setting of GI bleed. Anion gap consistent with RTA
   - IVF bolus, blood
   - holding ambisome, other nephrotoxins
   .
   #. Hyperglycemia: Checking sugars, on dexamethasone
   - ISS
   .
   #. PPx: PPI, Bowel reg, pneumoboots, Bactrim for PCP, [**Name10 (NameIs) **] for
   previous neutrapenia, neutrapenic precautions
   .
   #. FEN - NPO
   .
   #. Access - Left IJ Quad lumen
   .
   #. PPx -
   -DVT ppx with pneumoboots
   -Bowel regimen not indicated
   -Pain management with morphine
   .
   #. Code - Full Code. Wife is HCP, daughter is secondary HCP
   .
   #. Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2168-3-23**] 04:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-03-24 11:38:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -HCT without significant change from yesterday
   -NG lavage negative and family refusal of EGD and colonscopy
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2168-3-23**] 04:00 PM
   Micafungin - [**2168-3-23**] 10:15 PM
   Ciprofloxacin - [**2168-3-24**] 07:57 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2168-3-24**] 01:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2168-3-24**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.1
C (95.1
   HR: 84 (64 - 107) bpm
   BP: 135/83(96) {109/63(82) - 163/112(119)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,560 mL
                                                                    556 mL
   PO:
             TF:
   IVF:
                                                                  1,555 mL
                                                                    556 mL
   Blood products:
                                                                  2,004 mL
   Total out:
                                                                  2,135 mL
                                                                  1,855 mL
   Urine:
                                                                  2,135 mL
                                                                  1,855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,425 mL
                                                                 -1,299 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///14/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.4 g/dL
   26 K/uL
   74 mg/dL
   2.4 mg/dL
   14 mEq/L
   3.7 mEq/L
   50 mg/dL
   120 mEq/L
   141 mEq/L
   31.8 %
   0.1 K/uL
        [image002.jpg]
                             [**2168-3-21**]  02:46 AM
                             [**2168-3-22**]  04:33 AM
                             [**2168-3-22**]  06:07 AM
                             [**2168-3-22**]  04:03 PM
                             [**2168-3-23**]  03:54 AM
                             [**2168-3-23**]  05:44 AM
                             [**2168-3-23**]  09:55 AM
                             [**2168-3-23**]  04:56 PM
                             [**2168-3-23**]  09:09 PM
                             [**2168-3-24**]  03:59 AM
   WBC
   7.7
   0.6
   0.4
   0.3
   0.2
   0.1
   0.1
   Hct
   25.6
   20.2
   19.3
   25.1
   23.8
   22.2
   27.6
   31.1
   31.2
   31.8
   Plt
   38
   23
   24
   15
   10
   84
   56
   40
   33
   26
   Cr
   2.1
   2.4
   2.4
   2.4
   2.4
   Glucose
   78
   71
   84
   84
   74
   Other labs: PT / PTT / INR:14.2/33.1/1.2, ALT / AST:20/29, Alk Phos / T
   Bili:69/0.2, Differential-Neuts:33.0 %, Band:0.0 %, Lymph:67.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:265 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.1 g/dL, LDH:275 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   70 yo male with NHL and admit with GIB to ICU.  He had prolonged course
   of hospitalization over past 70 days with altered mental status,
   fungemia, renal failure and now with evolution of acute GI bleed.  In
   this setting family has undergone extensive discussions and
   consideration of pathway for treatment going forward.  Current goals
   are care are dominated by desire to have patient able to return home
   even if care delivered would have to be modified and course of action
   may result in less time, this quality of life at home would outweigh
   duration in their mind at this time but is an ongoing discussion.
   1)GI Bleed-
   -Continue to transfuse as needed PLT and PRBC given continued bleeding
   -Bleeding scan, EGD and all approaches to identification of source
   explored and current plan of care directed at supportive care
   -PPI IV
   -HCT q 12 hours today with PLT count
   2)Neutropenia-
   -GCSF to continue
   3)Acute Renal Failure-[**Month (only) 8**] be medication related and possible component
   of pre-renal insult in the setting of fungal infection
   4)[**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) **]-
   -Micafungin for 4 weeks
   -Of note patient has had improvement in mental status substantially
   which may represent some delirium
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 THROMBOCYTOPENIA, ACUTE
 DELIRIUM / CONFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 EDUCATIONAL ACTIVITIES, INABILITY TO PARTICIPATE IN
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 HYPOTENSION (NOT SHOCK)
 FUNGAL INFECTION, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2168-3-23**] 04:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes